US03957757
3.9 gm of 2-chloro-9-methoxycarbonyl-10-methyl-acridane were dissolved in 10 cc of tetrahydrofuran and 5 cc of hexamethyl phosphortriamide and the solution was heated to 45°C and 3.4 gm of potassium tert.-butylate were added thereto. After stirring the mixture for 1 hour at 45°-47°C, 4.5 gm of β-dimethylaminoethyl chloride were added thereto and the mixture was stirred for 16 hours at 46°-48°C. After cooling the mixture, 150 cc of water were added and the mixture was extracted with ether. The organic phases were washed with an aqueous solution of sodium chloride, dried over magnesium sulfate, treated with charcoal, filtered and evaporated to dryness to obtain 4.2 gm of raw 2-chloro-9 -methoxycarbonyl-9-(β -dimethylaminoethyl)-10-methyl-acridane.

reactant | 2-chloro-9-methoxycarbonyl-10-methyl-acridane | 3.9 gm | ClC1=CC=2C(C3=CC=CC=C3N(C2C=C1)C)C(=O)OC | C16H14ClNO2
reactant | β-dimethylaminoethyl chloride | 4.5 gm | CN(CCCl)C | C4H10ClN
reactant | water | 150 cc | O | H2O
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
product | 2-chloro-9 -methoxycarbonyl-9-(β -dimethylaminoethyl)-10-methyl-acridane | 4.2 gm | ClC1=CC=2C(C3=CC=CC=C3N(C2C=C1)C)(CCN(C)C)C(=O)OC | C20H23ClN2O2
